US07230031B2
4-(7-Amino-5-methylindan-4-yloxy)-2-ethyl-3-methylphenol
To a solution of 1-[-(7-amino-5-methylindan-4-yloxy)-6-benzyloxy-2-hydroxymethylphenyl]ethanol (40 mg) in dichloromethane (1 mL) was added triethylsilane (0.400 mL). Adding dropwise trifluoroacetic acid (1 mL), the mixture was stirred at room temperature overnight. The reaction mixture was evaporated to dryness. To the residue were added ethyl acetate (3 mL) and a saturated aqueous solution of sodium hydrogen carbonate (10 mL). The reaction mixture was stirred for 15 min, and extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by thin layer chromatography on silica gel (developing solvent: hexane/ethyl acetate=1/1) to give the title compound (24 mg).

reactant | 1-[-(7-amino-5-methylindan-4-yloxy)-6-benzyloxy-2-hydroxymethylphenyl]ethanol | 40 mg | NC=1C=C(C(=C2CCCC12)OC=1C(=C(C(=CC1)OCC1=CC=CC=C1)C(C)O)CO)C | C26H29NO4
reactant | triethylsilane | 0.400 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-(7-Amino-5-methylindan-4-yloxy)-2-ethyl-3-methylphenol | 24 mg | NC=1C=C(C(=C2CCCC12)OC1=C(C(=C(C=C1)O)CC)C)C | C19H23NO2
